US06825191B2
Step 1: Synthesis of 1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on hydrochloride
2.0 g (8.47 mmol) of ethyl (2-nitrobenzyl)aminoacetate was dissolved in 20 ml of dichloromethane. 2.7 g (12.6 mmol) of di-t-butyl dicarbonate and 2.4 ml (16.9 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, 200 mg of 10% palladium/carbon was added to the obtained crude product and they were stirred in the presence of hydrogen at room temperature for 5 hours. The reaction solution was filtered through Celite. The solvent was evaporated and the obtained crude product was dissolved in 20 ml of dichloromethane. 670 mg (3.29 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde and 0.29 ml (5.1 mmol) of acetic acid were added to the obtained solution, and they were stirred at room temperature for 30 minutes. 1.3 g (6.3 mmol) of sodium triacetoxyborohydride was added to the reaction mixture, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 2 ml of 1 N sodium hydroxide and 4 ml of ethanol, and the obtained solution was stirred at room temperature for 5 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 10 ml of dichloromethane. 78 mg (3.29 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.71 ml (5.1 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 5 ml of 4N solution of hydrogen chloride in dioxane, and the obtained solution was stirred at room temperature for 3 hours. The solvent was evaporated to obtain the crude title compound.

reactant | ethyl (2-nitrobenzyl)aminoacetate | 8.47 mmol, 2.0 g | [N+](=O)([O-])C1=C(CNCC(=O)OCC)C=CC=C1 | C11H14N2O4
reactant | di-t-butyl dicarbonate | 12.6 mmol, 2.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16.9 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 3.29 mmol, 670 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 5.1 mmol, 0.29 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.3 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 5.1 mmol, 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium/carbon | 200 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on hydrochloride | Cl.N1(CC=CC1)C(=O)C1=CC=C(CN2C(CNCC3=C2C=CC=C3)=O)C=C1 | InChI=1S/C21H21N3O2.ClH/c25-20-14-22-13-18-5-1-2-6-19(18)24(20)15-16-7-9-17(10-8-16)21(26)23-11-3-4-12-23;/h1-10,22H,11-15H2;1H
